US04054659
4.6 g of 3,5-dibenzyloxybenzaldehyde are added to 3.0 g of 1-amino-2,2-diethoxyethane, and the mixture is heated at 100° C for 10 minutes. Then, the mixture is stirred at 60° C for 2.5 hours under reduced pressure until water is removed from the mixture. 6.3 g of 1-[N-(3,5-dibenzyloxybenzylidene)amino]-2,2-diethoxyethane is thereby obtained as an oil. 5.9 g of this product are dissolved in 100 ml of ethanol. 600 mg of sodium borohydride are added to the ethanol solution, and the mixture is refluxed for 2 hours. After the reaction, water is added to the mixture and the aqueous mixture is extracted with ethyl acetate. The extract is dried and then evaporated to remove solvent, whereby 5.9 g of 1-[N-(3,5-dibenzyloxybenzyl)amino]-2,2-diethoxyethane are obtained.

reactant | 3,5-dibenzyloxybenzaldehyde | 4.6 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1)OCC1=CC=CC=C1 | C21H18O3
reactant | 1-amino-2,2-diethoxyethane | 3.0 g | NCC(OCC)OCC | C6H15NO2
solvent | water | O | H2O
product | 1-[N-(3,5-dibenzyloxybenzylidene)amino]-2,2-diethoxyethane | 6.3 g | C(C1=CC=CC=C1)OC=1C=C(C=NCC(OCC)OCC)C=C(C1)OCC1=CC=CC=C1 | C27H31NO4
